US07629467B2
Preparation of Nicotinyl azide (I-3a)
To a suspension of nicotinic acid (1.23 g, 10.0 mmol) in DMF (15 mL) was added diphenylphosphoryl azide (2.60 mL, 12.0 mmol) followed by triethylamine (1.67 mL, 12.0 mmol). The mixture was stirred at room temperature for 2.5 h and diluted with water (50 mL). The mixture was extracted three times with EtOAc and the combined organic extracts were washed three times with water, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/EtOAc 7:3) provided I-3a as a white solid (1.13 g).

reactant | nicotinic acid | 10.0 mmol, 1.23 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | diphenylphosphoryl azide | 12.0 mmol, 2.60 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 12.0 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | Nicotinyl azide | 1.13 g | C(C1=CN=CC=C1)N=[N+]=[N-] | C6H6N4
